US07396880B2
2-(4-Vinylphenyl) Ethanol (2-VPE)
To a VP-MgCl solution as prepared in Example 12 of this section was added a solution of 4.84 g ethylene oxide (0.11 mol) in 50 ml THF. The solution was added via additional funnel over one hour, maintaining the reaction mixture at 0° C. Keep stir at 0° C. for one more hour after the addition was finished. The reaction was then stirred for an additional 1 h at 0° C. 60 ml of 2 M aqueous hydrochloric acid (HCl) solution was added via the addition funnel, maintaining the temperature below 20° C. The reaction was filtered and extracted two times with 100 mL of diethyl ether. The organic phases were combined, dried over MgSO4 and filtered. The diethyl ether was removed by vacuum evaporation at room temperature. 11.2 g white waxy solid, 75.7%). 1H NMR (DMSO-d6): δ 7.20-δ 7.40 (m, 4H, aromatic), δ 6.72 (m, 1H, vinyl), δ 5.75 (d, 1H, vinyl), δ 5.23 (d, 1H, vinyl), δ 4.70 (t, 1H, OH), δ 3.65 (t, 2H, CH2—O), δ 2.72 (t, 2H, CH2—C).

reactant | ethylene oxide | 0.11 mol, 4.84 g | C1CO1 | C2H4O
reactant | hydrochloric acid | 2 M, 60 ml | Cl | ClH
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(4-Vinylphenyl) Ethanol | C(=C)C1=CC=C(C=C1)CCO | C10H12O
